US09326973B2
A neat stirred mixture of Deoxo-Fluor® (196 mg, 0.887 mmol) and ethyl 4,4-difluoro-1-(hydroxymethyl)cyclohexanecarboxylate (98.6 mg, 0.444 mmol) was heated at 70° C. overnight. The reaction was cooled to rt and quenched with ice and extracted with DCM, washed with satd. NaHCO3, water, brine and dried (MgSO4). Evaporation of DCM gave a light brown oil which was purified by silica gel FCC (1:3 hexanes:DCM) to afford ethyl 4,4-difluoro-1-(fluoromethyl)cyclohexanecarboxylate as a clear oil. 1H NMR (400 MHz, CHLOROFORM-d) δ 4.42 (d, J=47.2 Hz, 2H), 4.25 (q, J=7.0 Hz, 2H), 2.33-2.19 (m, 2H), 2.15-2.01 (m, 2H), 2.01-1.81 (m, 2H), 1.69-1.56 (m, 2H), 1.31 (t, J=7.0 Hz, 3H).

reactant | Deoxo-Fluor | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | ethyl 4,4-difluoro-1-(hydroxymethyl)cyclohexanecarboxylate | 0.444 mmol, 98.6 mg | FC1(CCC(CC1)(C(=O)OCC)CO)F | C10H16F2O3
product | ethyl 4,4-difluoro-1-(fluoromethyl)cyclohexanecarboxylate | FC1(CCC(CC1)(C(=O)OCC)CF)F | C10H15F3O2
